US03940395
Two grams of 4,6-dichloro-2-phenylpyrimidine is added in small portions to 10 ml. of N-methylpiperazine with slight warming and stirring. The resulting mixture is heated on a steam bath for several minutes, then poured into 250 ml. of water. The product (2.4 g., m.p. 81°-87°C.) is then recrystallized from n-pentane to afford 4-chloro-6-(4-methyl-1-piperazinyl)-2-phenylpyrimidine, m.p. 91°-92.5°C.

reactant | 4,6-dichloro-2-phenylpyrimidine | Two grams | ClC1=NC(=NC(=C1)Cl)C1=CC=CC=C1 | C10H6Cl2N2
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | water | O | H2O
product | 4-chloro-6-(4-methyl-1-piperazinyl)-2-phenylpyrimidine | ClC1=NC(=NC(=C1)N1CCN(CC1)C)C1=CC=CC=C1 | C15H17ClN4
